US08461170B2
3-(2,5-Dichloropyrimidin-4-yl)-1H-indole
Starting materials: 2,4,5-trichloropyrimidine and 1H-indole. m/z 265.

reactant | 2,4,5-trichloropyrimidine | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 3-(2,5-Dichloropyrimidin-4-yl)-1H-indole | ClC1=NC=C(C(=N1)C1=CNC2=CC=CC=C12)Cl | C12H7Cl2N3
